US06800654B2
1-Benzyl-3-pentyl-2-[6-(1H-tetraazol-5-ylmethoxy)-2-naphthyl]-1H-indole
To a stirred solution of the {[6-(1-benzyl-3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile (87.0 g, 189.71 mmol) in DMF (900 mL) under N2 was added NaN3 (61.665 g, 948.54 mmol) and NH4Cl (50.737 g, 948.54 mmol). The reaction was heated between 95-100° C. for 1.33 h then cooled. The reaction mixture was rotovap'd to a residue and the residue partitioned between EtOAc (2000 mL) and 1 N HCl (600 mL). The layers were shaken, separated, and the organic layer washed with 1 N HCl (2×300 mL), H2O (3×300 mL), and brine (2×300 mL), dried over Na2SO4, filtered, rotovap'd and triturated with hexane to give an off-white solid (97.5 g). The product was purified by refluxing the solid in diethyl ether (2000 mL), concentrating to about a liter and cooling. The solids were collected and dried in vacuo to give the product as a white solid (77.4 g, 154.3 mmol, 81%) with dec. 111-114° C.; 1H NMR (DMSO-d6) δ 0.72 (t, J=6.9 Hz, 3H) 1.10-1.20 (m, 4H), 1.50-1.60 (m, 2H), 2.67 (t, J=7.8 Hz, 2H), 5.30 (s, 2H), 5.62 (s, 2H), 6.81 (d, J=7.3 Hz, 2H), 7.02-7.20 (m, 5H), 7.30 (dd, J=2.4, 9.0 Hz, 1H), 7.35 (d, J=7.9 Hz, 1H), 7.44 (dd, J=1.5, 8.2 Hz, 1H), 7.55 (d, J=2.3 Hz, 1H), 7.60 (d, J=7.6 Hz, 1H), 7.84-7.90 m, 3H) 16.9 (s, 1H); IR (solid) 2920, 2850, 1610, 1390, 1200, 860, and 750, cm1; mass spectrum [ESI], m/z 502 (M+H)+;

reactant | {[6-(1-benzyl-3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | 189.71 mmol, 87.0 g | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCCC)C=1C=C2C=CC(=CC2=CC1)OCC#N | C32H30N2O
reactant | NaN3 | 948.54 mmol, 61.665 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 948.54 mmol, 50.737 g | [NH4+].[Cl-]
solvent | DMF | 900 mL | CN(C)C=O | C3H7NO
product | 1-Benzyl-3-pentyl-2-[6-(1H-tetraazol-5-ylmethoxy)-2-naphthyl]-1H-indole | 97.5 g | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCCC)C1=CC2=CC=C(C=C2C=C1)OCC1=NN=NN1 | C32H31N5O
